US07772221B2
Step AI (3): 2-Bromo-5-methylbenzaldehyde (500 mg, 2.51 mmol) was dissolved in methanol (5.0 mL). p-Toluenesulfonic acid monohydrate (90 mg, 0.52 mmol) and trimethoxymethane (5 mL) were added. The reaction mixture was heated at reflux for 5 h. The reaction mixture was extracted with DCM and washed with saturated aqueous sodium bicarbonate. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum to yield 1-bromo-2-(dimethoxymethyl)-4-methylbenzene (615 mg, 99%) as a colorless oil. LC-MS (M−OCH3)+=213.25. 1H NMR (CD3OD, 500 MHz) δ 7.41-7.39 (m, 2H) 6.98 (d, J=10 Hz, 1H) 5.51 (s, 1H) 3.37 (s, 6H) 2.30 (s, 3H).

reactant | 2-Bromo-5-methylbenzaldehyde | 2.51 mmol, 500 mg | BrC1=C(C=O)C=C(C=C1)C | C8H7BrO
reactant | p-Toluenesulfonic acid monohydrate | 0.52 mmol, 90 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | trimethoxymethane | 5 mL | COC(OC)OC | C4H10O3
solvent | methanol | 5.0 mL | CO | CH4O
product | 1-bromo-2-(dimethoxymethyl)-4-methylbenzene | 615 mg, 99% | BrC1=C(C=C(C=C1)C)C(OC)OC | C10H13BrO2
